US09447044B2
Step A: 2-isopropylsulfanyl-nicotinic acid
2-Mercapto-nicotinic acid (5.0 g, 32.22 mmol) was dissolved in DMF (40 mL), and the solution was cooled to 0˜5° C. NaH (6.4 g, 161.1 mmol) was added thereto slowly, and the mixture was stirred at 0˜5° C. for 30 minutes. 2-Iodo-propane (9.65 mL, 96.66 mmol) was added thereto, and the mixture was stirred at room temperature for 2 hours. After the termination of the reaction, the reactant was concentrated under reduced pressure and water was added to dilute the residue. 3N HCl was added to adjust the pH of the aqueous solution to 2˜3, and the mixture was extracted with EtOAc. The organic layer was dried with MgSO4 and concentrated under reduced pressure. The reaction product was used in the next step without a separate purification process.

reactant | 2-Mercapto-nicotinic acid | 32.22 mmol, 5.0 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | NaH | 161.1 mmol, 6.4 g | [H-].[Na+]
reactant | 2-Iodo-propane | 96.66 mmol, 9.65 mL | IC(C)C | C3H7I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-isopropylsulfanyl-nicotinic acid | C(C)(C)SC1=C(C(=O)O)C=CC=N1 | C9H11NO2S
